US04812164
using 3-(4-chloro-3-isopropoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione with dimethyl sulphate and sodium bicarbonate in acetone there is obtained 1-(4-chloro-3-isopropoxyphenyl)-2-methoxy-4-trifluoromethyl -6(1H)-pyrimidinone. m.p. 55°-58° C.

reactant | 3-(4-chloro-3-isopropoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=C(C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)OC(C)C | C14H12ClF3N2O3
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-chloro-3-isopropoxyphenyl)-2-methoxy-4-trifluoromethyl -6(1H)-pyrimidinone | ClC1=C(C=C(C=C1)N1C(=NC(=CC1=O)C(F)(F)F)OC)OC(C)C | C15H14ClF3N2O3
